US07612114B2
To a solution of 5-methoxy-2-(6-methoxynaphthalen-2-yl)phenylamine (275 mg) in tetrahydrofuran (8 ml) were sequentially added triethylamine (1.3 ml), N,N-diisopropylethylamine (1 ml) and 4-(2-piperidine-1-ylethoxy)benzoyl chloride hydrochloride (1.1 g), and the solution was stirred for 2 days at 60° C. A saturated aqueous solution of ammonium chloride was added thereto, the solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate system) to provide N-[5-methoxy-2-(6-methoxynaphthalen-2-yl)phenyl]-4-(2-piperidin-1-ylethoxy)benz amide (234 mg). To a suspension of lithium aluminum hydride (50 mg) in tetrahydrofuran (4 ml) was added aluminum chloride (176 mg) on an ice bath under a nitrogen atmosphere, the solution was stirred for 20 minutes at room temperature, N-[5-methoxy-2-(6-methoxynaphthalen-2-yl)phenyl]-4-(2-piperidin-1-ylethoxy)benzamide (226 mg) was added thereto followed by stirring overnight at room temperature. Obtained by sequentially adding tetrahydrofuran and aqueous ammonia, the suspension was filtered through celite pad, and the filtrate was concentrated in vacuo. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (213 mg).

reactant | 5-methoxy-2-(6-methoxynaphthalen-2-yl)phenylamine | 275 mg | COC=1C=CC(=C(C1)N)C1=CC2=CC=C(C=C2C=C1)OC | C18H17NO2
reactant | N,N-diisopropylethylamine | 1 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-(2-piperidine-1-ylethoxy)benzoyl chloride hydrochloride | 1.1 g | Cl.N1(CCCCC1)CCOC1=CC=C(C(=O)Cl)C=C1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 1.3 ml | C(C)N(CC)CC | C6H15N
product | N-[5-methoxy-2-(6-methoxynaphthalen-2-yl)phenyl]-4-(2-piperidin-1-ylethoxy)benz amide | 234 mg | COC=1C=CC(=C(C1)NC(C1=CC=C(C=C1)OCCN1CCCCC1)=O)C1=CC2=CC=C(C=C2C=C1)OC | C32H34N2O4
